US05051508
Preparation of 1-(2-methoxyphenyl)-4-chloro-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methoxyphenyl)-4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline (9.55 g) was dissolved in phosphoryl chloride (100 ml) and heated at reflux for 2.5 hours. After cooling, the solution was poured onto ice, made alkaline with aqueous sodium hydroxide solution, and extracted with dichloromethane. The organic extract was dried and evaporated, and the crude product purified by chromatography (silica gel, 50-100% diethyl ether in petroleum ether). The first compound to elute was 4-chloro-6-methoxy-2,3-dihydrofuro[3,2-c]quinoline, m.p. 99°-101°. Later fractions containing the desired product were recrystallised from ethyl acetate, then ethyl acetate/ethanol to give1-(2-methoxyphenyl)-4-chloro-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline, m.p. 183°-184°.

reactant | 1-(2-Methoxyphenyl)-4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 9.55 g | COC1=C(C=CC=C1)N1CCC=2C(NC=3C(=CC=CC3C21)OC)=O | C19H18N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphoryl chloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(2-methoxyphenyl)-4-chloro-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC)Cl | C19H17ClN2O2
